US06492412B2
To a solution of 4-(2-methanesulfonylamino-ethoxy)-benzoic Acid methyl ester (62 mg, 0.23 mmol) in DMF (10 mL) at 0° C. was added sodium bis(trimethylsilyl)amide (1.0 M in THF, 0.24 mL, 0.24 mmol) dropwise. After 20 minutes, cinnamyl bromide (51 mg, 0.26 mmol) was added and the reaction was stirred at room temperature for 2 h. Aqueous 1N HCl was added and the product was extracted into EtOAc. The organic solution was washed with 1N HCl (3×) followed by brine. The organic solution was dried (Na2SO4), filtered, and concentrated. Radial chromatography (20% EtOAc in hexanes) provided trans4-{2-[methanesulfonyl-(3-phenyl-allyl)-amino]- ethoxy}-benzoic Acid methyl ester (70 mg). 1NMR (400 MHz, CDCl3) δ 7.97 (d, 2H), 7.35-7.23 (m, 5H), 6.88 (d, 2H), 6.58 (d, 1H), 6.18 (m, 1H), 4.20 (t, 2H), 4.12 (d, 2H), 3.88 (s, 3H), 3.68 (t, 2H), 2.95 (s, 3H).

reactant | 4-(2-methanesulfonylamino-ethoxy)-benzoic Acid methyl ester | 0.23 mmol, 62 mg | COC(C1=CC=C(C=C1)OCCNS(=O)(=O)C)=O | C11H15NO5S
reactant | sodium bis(trimethylsilyl)amide | 0.24 mmol, 1.0 M, 0.24 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | cinnamyl bromide | 0.26 mmol, 51 mg | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | trans4-{2-[methanesulfonyl-(3-phenyl-allyl)-amino]- ethoxy}-benzoic Acid methyl ester | 70 mg | COC(C1=CC=C(C=C1)OCCN(C\C=C\C1=CC=CC=C1)S(=O)(=O)C)=O | C20H23NO5S
